US07465726B2
4-(2-fluoro-5-nitrophenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester
Into a 1-neck round-bottom flask were added 2-bromo-1-fluoro-4-nitrobenzene (1760 mg, 8.000 mmol), potassium carbonate (2210 mg, 16.00 mmol), 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (2720 mg, 8.800 mmol), water (8 mL) and 1,4-dioxane (32 mL). The flask was degassed and filled with N2 for 3 times, and then [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) complex with CH2Cl2 (1:1) (330.0 mg, 0.4000 mmol) was added. The mixture was degassed and filled with N2 for 3 times again and was then heated at 100° C. for 16 h. After that time, the mixture was concentrated in vacuo and was then purified by silica gel (240 g) eluting with 1800 mL of 5%, 1000 mL of 10%, 1000 mL of 15% and 1000 mL of 20% EtOAc/hexane to obtain the title compound as a colorless oil. 1H NMR (DMSO-d6, 400 MHz): δ=1.49 (s, 9H), 2.52-2.55 (m, 2H), 3.60 (t, 2H, J=5.6 Hz), 4.09 (brs, 2H), 6.21 (brs, 1H), 7.55-7.60 (m, 1H), 8.21-8.29 (m, 2H). MS (ES+): m/z 223.22 (100) [MH+-Boc]. HPLC: tR=3.83 min (ZQ2000, polar—5 min).

reactant | 2-bromo-1-fluoro-4-nitrobenzene | 8.000 mmol, 1760 mg | BrC1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | potassium carbonate | 16.00 mmol, 2210 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 8.800 mmol, 2720 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C16H28BNO4
reactant | CH2Cl2 | 0.4000 mmol, 330.0 mg | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 32 mL | O1CCOCC1 | C4H8O2
solvent | water | 8 mL | O | H2O
product | 4-(2-fluoro-5-nitrophenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=C(C=CC(=C1)[N+](=O)[O-])F | C16H19FN2O4
